US06355799B1
Preparation of 3-(2-amino-4-chlorophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione
To a stirred suspension of 3-(4-choro-2-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (1 g) in methanol (20 ml) and conc. hydrochloric acid (10 ml) was added iron (powdered, 0.48 g) unded vigorous stirring. After addition, the mixture was heated at reflux temperature for 1 hr. The oil bath was removed and the solution was allowed to cool to ambient temperature. Ethyl acetate (200 ml) was added, washed with brine (×2) and dried over anhydrous sodium sulfate. After removal of the solvent, the residue was purified by column chromatography on silica gel using ethyl acetate-hexane (1:3) as the eluent to give the title compound.

reactant | 3-(4-choro-2-nitrophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 1 g | ClC1=CC(=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C12H7ClF3N3O4
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrochloric acid | 10 ml | Cl | ClH
catalyst | iron | 0.48 g | [Fe] | Fe
product | 3-(2-amino-4-chlorophenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | NC1=C(C=CC(=C1)Cl)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C12H9ClF3N3O2
